US07524841B2
After dissolving 4-[({[(fluoren-9-ylmethoxy)carbonylamino]thioxomethyl}amino)methyl]-4-fluoropiperidinecarboxylic acid tert-butyl ester (1896 mg, 3.69 mmol) in DMF (15 ml), piperidine (1.8 ml, 18.5 mmol) was added and the mixture was stirred at room temperature overnight. After completion of the reaction, water (100 ml) was added and extraction was performed with ethyl acetate (100 ml×3 times). The extracted organic layer was washed with water (300 ml×2 times) and then with saturated brine; dried over anhydrous sodium sulfate, and then filtered and concentrated. It was subsequently purified by silica gel column chromatography (hexane/ethyl acetate=1/1, ethyl acetate) to obtain 4-{[(aminothioxomethyl)amino]methyl}-4-fluoropiperidinecarboxylic acid tert-butyl ester. The compound was identified by LC-MS. Yield: 900 mg (84%), M+1=292.1

reactant | 4-[({[(fluoren-9-ylmethoxy)carbonylamino]thioxomethyl}amino)methyl]-4-fluoropiperidinecarboxylic acid tert-butyl ester | 3.69 mmol, 1896 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)(F)CNC(=S)NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12 | C27H32FN3O4S
reactant | piperidine | 18.5 mmol, 1.8 ml | N1CCCCC1 | C5H11N
reactant | water | 100 ml | O | H2O
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 4-{[(aminothioxomethyl)amino]methyl}-4-fluoropiperidinecarboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)(F)CNC(=S)N | C12H22FN3O2S
